### PR TITLE
test local pr

### PR DESCRIPTION
**Pull request by jt496**
Test local pr for review checking

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 1]
```diff
@@ -305,13 +305,10 @@ lemma IsLink.adj (h : G.IsLink e x y) : G.Adj x y :=
...
 lemma mk_eq_self (G : Graph α β) {E : Set β} (hE : ∀ e, e ∈ E ↔ ∃ x y, G.IsLink e x y) :
-    Graph.mk V(G) G.IsLink E
-    (by simpa [show E = E(G) by simp [Set.ext_iff, hE, G.edge_mem_iff_exists_isLink]]
-      using G.isLink_symm)
-    (fun _ _ _ _ _ h h' ↦ h.left_eq_or_eq h') hE
+    Graph.mk V(G) G.IsLink E (fun _ _ _ _ h ↦ h.symm) (fun _ _ _ _ _ h h' ↦ h.left_eq_or_eq h') hE
     (fun _ _ _ ↦ IsLink.left_mem) = G := by
   obtain rfl : E = E(G) := by simp [Set.ext_iff, hE, G.edge_mem_iff_exists_isLink]
-  cases G with | _ _ _ _ _ _ h _ => simp
+  rfl
```
Comment (jt496) [inline Mathlib/Combinatorics/Graph/Basic.lean:312]: How about adding this?
```suggestion
/-
Add test comment
-/
```

**Review by jt496 — COMMENTED** [review]
Blah
